data/mechanism_extracts/GreenChem/10.1039_D3GC04109C_sup_1.json
{"doi": "10.1039_D3GC04109C_sup_1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Ni/Fe dual-catalyzed three-component radical 1,2-acylalkylation of alkenes with acyl chlorides and C(sp3)-H alkanes via HAT and radical addition", "mechanism_family": ["radical_polar_crossover", "electrocatalysis_inner_sphere", "direct_SET"], "electrochemical_role": null, "key_intermediates": [{"name": "cyclohexyl radical (alkyl C-radical from HAT on cyclohexane)", "smiles": "[CH]1CCCCC1", "role": "reactive"}, {"name": "TEMPO-cyclohexyl adduct (47, detected by GCMS)", "smiles": "O(C1CCCCC1)N1C(C)(C)CCCC1(C)C", "role": "transient"}, {"name": "acyl radical / Ni-acyl species from p-toluoyl chloride", "smiles": null, "role": "reactive"}, {"name": "alkyl-Ni intermediate after radical addition to acrylate", "smiles": null, "role": "transient"}], "electron_flow": "Fe/Cl-based HAT abstracts a C-H from the alkane to give an alkyl radical, which adds to the acrylate; the resulting α-ester radical is captured by a Ni-acyl species (from oxidative addition of the acyl chloride) and reductive elimination delivers the 1,2-acylalkylated product.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Desired product 4 not detected (n.d.); TEMPO-cyclohexyl adduct 47 detected by GCMS, indicating a free cyclohexyl radical intermediate"}], "evidence_types_used": ["intermediate_trap_TEMPO", "product_isotope_distribution"], "evidence_strength": "medium", "notes": "Page shows only the TEMPO trapping experiment from the Mechanistic Investigations section; the trapped alkyl radical (cyclohexyl) supports a HAT-generated C(sp3) radical pathway. Standard conditions employ NiBr2·DME / dtbbpy, FeCl3·6H2O, LiCl in acetone/MeCN. Further mechanistic details (e.g., role of Ni vs Fe, acyl radical generation pathway) not visible on this page."}
